US08071565B2
Step b: (1-{(1S,4R)-4-[2-Chloro-6-(2,2-diphenylethylamino)-purin-9-yl]-cyclopent-2-enyl}-1H-pyrazol-4-yl)-methanol
A mixture comprising {1-[(1S,4R)-4-(2,6-dichloro purin-9-yl)-cyclopent-2-enyl]-1H-pyrazol-4-yl}-methanol (0.675 g, 1.92 mmol), diphenylethylamine (0.398 g, 2.02 mmol) and DIPEA (0.298 g, 2.31 mmol) in dry THF (20 mL) is stirred at 35 C for 3 days. The solvent is removed in vacuo and the resulting crude residue is partitioned between DCM and 0.1 M HCl. The organic portion is separated, washed with water, brine, dried (MgSO4) and concentrated in vacuo to afford the title product.

reactant | {1-[(1S,4R)-4-(2,6-dichloro purin-9-yl)-cyclopent-2-enyl]-1H-pyrazol-4-yl}-methanol | 1.92 mmol, 0.675 g | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)N1N=CC(=C1)CO)Cl | C14H12Cl2N6O
reactant | diphenylethylamine | 2.02 mmol, 0.398 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
reactant | DIPEA | 2.31 mmol, 0.298 g | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (1-{(1S,4R)-4-[2-Chloro-6-(2,2-diphenylethylamino)-purin-9-yl]-cyclopent-2-enyl}-1H-pyrazol-4-yl)-methanol | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)N1N=CC(=C1)CO)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26ClN7O
